US05719141
d) 1-Benzyl-3(R,S)-formyl-1,2,3,4-tetrahydroquinoline
5.4 g of 1-benzyl-3(R,S)-hydroxymethyl-1,2,3,4-tetrahydroquinoline are reacted with 2.8 ml oxalyl chloride, 3.0 ml dimethylsulfoxide and 12 ml triethylamine analogously to Example 29b). Purification by means of FC is carried out over 500 g of silica gel (mobile phase D): Rf (D)=0.26; Rf (B)=0.41.

reactant | 1-benzyl-3(R,S)-hydroxymethyl-1,2,3,4-tetrahydroquinoline | 5.4 g | C(C1=CC=CC=C1)N1CC(CC2=CC=CC=C12)CO | C17H19NO
reactant | oxalyl chloride | 2.8 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 3.0 ml | CS(=O)C | C2H6OS
solvent | triethylamine | 12 ml | C(C)N(CC)CC | C6H15N
product | 1-Benzyl-3(R,S)-formyl-1,2,3,4-tetrahydroquinoline | C(C1=CC=CC=C1)N1CC(CC2=CC=CC=C12)C=O | C17H17NO
